US09371331B2
To a mixed solution of methanol (10 mL) and water (2 mL), methyl 2-methyl-1-(pyrimidin-5-ylmethyl)-1H-indole-3-carboxylate (110 mg, 0.39 mmol) and potassium hydroxide (50 mg, 0.98 mmol) was added. The mixture was stirred at reflux for 12 hours. Then the reaction mixture was acidified by hydrochloric acid aqueous solution (1N) to adjust pH=6 and extracted with dichloromethane (10 mL*3). The organic layers were combined and concentrated to give 1-isopropyl-2-methyl-1H-indole-3-carboxylic acid (60 mg, 58%).

reactant | methanol | 10 mL | CO | CH4O
reactant | methyl 2-methyl-1-(pyrimidin-5-ylmethyl)-1H-indole-3-carboxylate | 0.39 mmol, 110 mg | CC=1N(C2=CC=CC=C2C1C(=O)OC)CC=1C=NC=NC1 | C16H15N3O2
reactant | potassium hydroxide | 0.98 mmol, 50 mg | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 1-isopropyl-2-methyl-1H-indole-3-carboxylic acid | 60 mg, 58% | C(C)(C)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C13H15NO2
